US06900227B2
Preparation of 2,2-bis-(2,4-difluoro-phenyl)-6-fluoro-benzo[1,3]dioxole-5-sulfonyl chloride
To a solution of 2,2-bis-(2,4-difluoro-phenyl)-6-fluoro-benzo[1,3]dioxole-5 sulfinic acid (3.2 g, 7 mmol) in chloroform (25 mL) was added N-chlorosuccinimide (1.0 g, 7 mmol, 1.0 eq.) at 20° C. After 40 min, the reaction mixture was filtered and the filtrate was evaporated. The residue was suspended in dichloromethane, dried over sodium sulfate and the solvent was removed in vacuo, affording the title product as a light yellow gum.

reactant | 2,2-bis-(2,4-difluoro-phenyl)-6-fluoro-benzo[1,3]dioxole-5 sulfinic acid | 7 mmol, 3.2 g | FC1=C(C=CC(=C1)F)C1(OC2=C(O1)C=C(C(=C2)S(=O)O)F)C2=C(C=C(C=C2)F)F | C19H9F5O4S
reactant | N-chlorosuccinimide | 7 mmol, 1.0 g, 1.0 eq. | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 2,2-bis-(2,4-difluoro-phenyl)-6-fluoro-benzo[1,3]dioxole-5-sulfonyl chloride | FC1=C(C=CC(=C1)F)C1(OC2=C(O1)C=C(C(=C2)S(=O)(=O)Cl)F)C2=C(C=C(C=C2)F)F | C19H8ClF5O4S
